Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Penicillins / Sudafed
 
Attending: ___.
 
Chief Complaint:
somnolence
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of Ehlers-Danlos 
syndrome and chronic pain who presents to the ED after being 
found minimally responsive at home. Stroke code was called on 
arrival to the ED for slurred speech.  
 
History is provided by Ms. ___ and ___ boyfriend, ___ 
___.  
 
___ reports that he last saw Ms. ___ well at approx. 10:30 
pm, at which time he delivered her dinner to eat in a different 
room  
 
On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.  
 
On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash. 
 
Past Medical History:
Thrombophlebitis of deep veins of LEs
?Ehrlos Danlos syndrome
Fibromyalgia
Narcotic contract
HLD
Anemia
Asthma
Osteoporosis
 
Social History:
___
___ History:
Father  ___ Disease 
Maternal Aunt  Cancer - ___ 
Mother  ___ Hypertension; Osteoporosis; Stroke; 
bruising[Other] [OTHER] 
Paternal Aunt  Cancer - ___ 
Paternal Grandmother  Cancer - ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS - T 98.2, BP 107/56, HR 68, RR 18, SpO2 100/RA
GENERAL - alert and oriented, NAD. Speech very mildly slurred.
HEENT - PERRLA, slightly dry mucus membranes
NECK - supple
CARDIAC - RRR, S1+S2, no M/R/G
PULMONARY - CTAB, good air entry
ABDOMEN - +BS, non-distended, soft, non-tender
EXTREMITIES - warm, well-perfused. No tenderness, no edema.
NEUROLOGIC - Strength and sensation gross intact. Face is 
symmetric.
PSYCHIATRIC - coherent line of thought, somewhat flat affect
SKIN - no obvious rashes or lesions

DISCHARGE PHYSICAL EXAM
=======================
VITALS - T 98.2, BP 107/56, HR 68, RR 18, SpO2 100/RA
GENERAL - alert and oriented, NAD. Speech very mildly slurred.
HEENT - PERRLA, slightly dry mucus membranes
NECK - supple
CARDIAC - RRR, S1+S2, no M/R/G
PULMONARY - CTAB, good air entry
ABDOMEN - +BS, non-distended, soft, non-tender
EXTREMITIES - warm, well-perfused. No tenderness, no edema.
NEUROLOGIC - Strength and sensation gross intact. Face is 
symmetric.
PSYCHIATRIC - coherent line of thought, somewhat flat affect
SKIN - no obvious rashes or lesions
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:43AM   PLT COUNT-151
___ 12:43AM   NEUTS-52.4 ___ MONOS-9.3 EOS-8.2* 
BASOS-0.9 IM ___ AbsNeut-2.83 AbsLymp-1.54 AbsMono-0.50 
AbsEos-0.44 AbsBaso-0.05
___ 12:43AM   WBC-5.4 RBC-3.58* HGB-10.7* HCT-34.4 MCV-96 
MCH-29.9 MCHC-31.1* RDW-14.1 RDWSD-49.6*
___ 12:43AM   ASA-NEG ETHANOL-32* ACETMNPHN-NEG 
bnzodzpn-POS* barbitrt-NEG tricyclic-POS*
___ 12:43AM   CREAT-0.7
___ 12:43AM   GLUCOSE-104* UREA N-15 CREAT-0.7 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-24 ANION GAP-17
___ 12:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:50AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:50AM URINE  bnzodzpn-POS* barbitrt-POS* opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG
___ 01:21AM   GLUCOSE-96 LACTATE-2.7* NA+-140 K+-3.6 
CL--108 TCO2-24
___ 10:45AM   CALCIUM-8.2* PHOSPHATE-3.2 MAGNESIUM-1.8
___ 10:45AM   ALT(SGPT)-10 AST(SGOT)-15 TOT BILI-<0.2 DIR 
BILI-<0.2
___ 11:57AM   ___ PO2-57* PCO2-54* PH-7.29* TOTAL 
CO2-27 BASE XS--1 COMMENTS-GREEN TOP
___ 06:32PM   PO2-95 PCO2-46* PH-7.41 TOTAL CO2-30 BASE 
XS-3 COMMENTS-GREEN TOP

DISCHARGE LABS
==============
___ 06:32PM   PO2-95 PCO2-46* PH-7.41 TOTAL CO2-30 BASE 
XS-3 COMMENTS-GREEN TOP

IMAGING
=======
CT HEAD WITHOUT CONTRAST (___)
No acute intracranial process.

CXR (___)
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ yoF with PMHx of headaches, asthma, and Eh___ 
presents with AMS in setting of polypharmacy and positive EtOH 
(level 32).

ACTIVE ISSUES THIS ADMISSION
#Toxic/Metabolic Encephalopathy: Patient was found drowsy and 
sleeping and was brought by ambulance to the ED. After receiving 
naloxone, she became more responsive. She was seen by neuro in 
the ED, who evaluated her for stroke. Presentation unlikely 
stroke as she had no focal neuro deficits, and just had altered 
mental status. No electrolyte abnormalities, however her urine 
and serum toxicology tests were positive for barbiturates, 
benzos, oxycodone, +TCA. Positive EtOH level to 32. Toxicology 
saw the patient and recommended monitoring of blood gases and 
EKGs (QRS and QTc intervals). Initial VBG was ___ but 
normalized by discharge. QRS and QTc within normal limits and 
stable during admission. Patient strongly encouraged to abstain 
from alcohol, especially in the setting of tricyclic 
antidepressant use. Home doses of amitriptyline and diazepam 
were continued, per toxicology recommendation.

CHRONIC ISSUES
#Ehrlos Danlos syndrome: continue home Amitriptyline 150 mg PO 
QHS, OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain. 
Unclear that this is a true diagnosis. Some documentation in 
rheumatology notes that this may be fibromyalgia.

#Narcotic contract

#Anemia: stable

#Asthma: continued home albuterol and budenoside

TRANSITIONAL ISSUES:
#A thorough medication review may be helpful, to potentially 
eliminate any non-essential medications and reduce complications 
due to polypharmacy. Encourage continued tapering of diazepam 
and TCA and alternative treatment to headaches than fiorect.
#Consider discontinuing nadolol as patient had softer BPs during 
hospitalization.
#Patient taking spironolactone for hair growth. monitor BPs and 
associated symptoms as outpatient as pressures were soft as 
inpatient.
#PCP ___ with Dr ___
#Strict abstinence for alcohol
#Full code, confirmed
#CONTACT: ___, partner, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 150 mg PO QHS 
2. Ranitidine 300 mg PO BID 
3. Cyproheptadine 8 mg PO DAILY 
4. Nadolol 20 mg PO BID 
5. Gabapentin 200 mg PO QID 
6. Tizanidine ___ mg PO QHS:PRN severe facial pain 
7. trospium 20 mg oral BID 
8. Diazepam 5 mg PO BID:PRN anxiety, spasms 
9. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain - 
Moderate 
10. Mupirocin Ointment 2% 1 Appl TP TID:PRN eye problems 
11. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
12. Tretinoin 0.025% Cream 1 Appl TP QHS 
13. Aspirin-Caffeine-Butalbital 1 CAP PO Q6H:PRN Pain - Moderate 

14. hydrocortisone-iodoquinol-aloe ___ % topical BID:PRN 
15. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
16. budesonide 180 mcg/actuation inhalation Q12H 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. ciclopirox 8 % topical QHS 
19. Hydrocortisone ___. Cream 0.2% 1 Appl TP BID:PRN dermatitis 
20. Ketoconazole 2%  1 Appl TP DAILY 

 
Discharge Medications:
1.  albuterol sulfate 90  mcg INHALATION Q6H:PRN wheezing  
2.  Amitriptyline 150 mg PO QHS  
3.  Aspirin-Caffeine-Butalbital 1 CAP PO Q6H:PRN Pain - Moderate 
 
4.  Budesonide 180 mcg/actuation INHALATION Q12H  
5.  ciclopirox 8 % topical QHS  
6.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  
7.  Cyproheptadine 8 mg PO DAILY  
8.  Diazepam 5 mg PO BID:PRN anxiety, spasms  
9.  Gabapentin 200 mg PO QID  
10.  Hydrocortisone ___. Cream 0.2% 1 Appl TP BID:PRN dermatitis 
 
11.  hydrocortisone-iodoquinol-aloe ___ % topical BID:PRN  
12.  Ketoconazole 2%  1 Appl TP DAILY  
13.  Mupirocin Ointment 2% 1 Appl TP TID:PRN eye problems  
14.  Nadolol 20 mg PO BID  
15.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain 
- Moderate  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  Ranitidine 300 mg PO BID  
18.  Spironolactone 100 mg PO DAILY  
19.  Tizanidine ___ mg PO QHS:PRN severe facial pain  
20.  Tretinoin 0.025% Cream 1 Appl TP QHS  
21.  trospium 20 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
 - toxic tricyclic antidepressant serum levels

SECONDARY DIAGNOSES:
 - ___ Syndrome
 - Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted at ___ on 
___ for excessive sleepiness and elevated levels of 
amitriptyline.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
=============================================
 - You had blood work done to monitor the effects of the 
amitriptyline on your body.
 - You had multiple electrocardiograms (EKGs) done to assess the 
electrical rhythm of your heart, which can be dangerously 
affected by high levels of amitriptyline in your blood. Your 
heart rhythm was fine.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=============================================
 - You will continue to take your medicines as prescribed.
 - It is very important that you do not drink any alcohol 
whatsoever, as it may cause dangerous reactions with your 
medicines.
 - You should make an appointment to see you primary care 
doctor, ___ the next week.

If you have any further questions about your care here, please 
do not hesitate to contact us. We wish you the best with your 
health going forward.

Your ___ Care Team
 
Followup Instructions:
___